US07534797B2
3-tert-Butyl-1-(2-phenylquinolin-7-yl)-imidazo[1,5-a]pyrazin-8-ylamine
Gaseous NH3 was condensed into a cooled (−78° C.) solution of 7-(3-tert-butyl-8-chloroimidazo[1,5-a]pyrazin-1-yl)-2-phenylquinoline (92.5 mg, 0.224 mmol) in NH3/i-PrOH (2M, 5 mL) in a pressure tube until the volume had doubled. The tube was sealed and heated to 110° C. for 21 h. After excess NH3 and i-PrOH were removed in vacuo, the residue was suspended between CH2Cl2 and water, the layers were separated, and the aqueous layer was extracted with CH2Cl2 (3×15 mL). The combined organic layers were washed with brine (3×25 mL), dried over MgSO4, filtered, and concentrated in vacuo. The crude material was purified by chromatography on silica gel [Jones Flashmaster, 5 g/25 mL cartridge, eluting with MeOH (7N NH3):CH2Cl2 1%→2%], affording the title compound, as a fine yellow solid. 1H NMR (CDCl3, 400 MHz) δ 1.25 (s, 9H), 5.18 (s, —NH2), 7.08 (d, J=4.8 Hz, 1H), 7.45-7.51 (m, 1H), 7.51-7.57 (m, 3H), 7.90-7.97 (m, 3H), 8.17-8.22 (m, 2H), 8.27 (d, J=8.4 Hz, 1H), 8.42-8.44 (m, 1H); MS (ES+): m/z 394.1 (25) [MH+]; HPLC: tR=2.5 min (OpenLynx, polar—5 min).

reactant | NH3 | N | H3N
reactant | 7-(3-tert-butyl-8-chloroimidazo[1,5-a]pyrazin-1-yl)-2-phenylquinoline | 0.224 mmol, 92.5 mg | C(C)(C)(C)C1=NC(=C2N1C=CN=C2Cl)C2=CC=C1C=CC(=NC1=C2)C2=CC=CC=C2 | C25H21ClN4
solvent | NH3 i-PrOH | 2M, 5 mL | N.CC(C)O
product | 3-tert-Butyl-1-(2-phenylquinolin-7-yl)-imidazo[1,5-a]pyrazin-8-ylamine | C(C)(C)(C)C1=NC(=C2N1C=CN=C2N)C2=CC=C1C=CC(=NC1=C2)C2=CC=CC=C2 | C25H23N5
